US04228168
10 ml of methanol and 3 ml of 10% methanolic hydrogen chloride were added to 2.86 g of 1,2,3,4-tetrahydro-1-(3-carboxypropyl)-2-ethyl-β-carboline, and the mixture was refluxed for 2 hours. After the reaction was completed, the mixture was concentrated to one third volume. The concentrated mixture was alkalified with an aqueous saturated sodium bicarbonate solution, and then extracted with benzene. The extract was washed with water, dried and evaporated to remove solvent. 2.70 g of 1,2,3,4-tetrahydro-1-(3-methoxycarbonylpropyl)-2-ethyl-β-carboline were obtained. Yield: 90%

reactant | hydrogen chloride | 3 ml | Cl | ClH
reactant | 1,2,3,4-tetrahydro-1-(3-carboxypropyl)-2-ethyl-β-carboline | 2.86 g | C(=O)(O)CCCC1N(CCC=2C3=CC=CC=C3NC12)CC | C17H22N2O2
reactant | methanol | 10 ml | CO | CH4O
product | 1,2,3,4-tetrahydro-1-(3-methoxycarbonylpropyl)-2-ethyl-β-carboline | 2.70 g, Yield: 90% | COC(=O)CCCC1N(CCC=2C3=CC=CC=C3NC12)CC | C18H24N2O2
